US09403846B2
Step 5. Synthesis of (3S,3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)-3-methylhexahydro-1H-pyrano[3,4-c][1,2]oxazole (C28)
(3S,3aR,5R)-5-Cyclopropyl-3-methyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C27) was converted to the product according to the method described for synthesis of rel-(3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole (C19) in Example 2. The product was obtained as a gum. Yield: 60 mg, 0.20 mmol, 40%. 1H NMR (400 MHz, CDCl3) δ 7.99 (ddd, J=9.2, 9.0, 6.8 Hz, 1H), 6.90 (dddd, J=8.9, 7.9, 2.6, 1.0 Hz, 1H), 6.79 (ddd, J=11.9, 8.7, 2.5 Hz, 1H), 6.31 (br s, 1H), 4.03-4.10 (m, 1H), 3.89 (dd, half of ABX pattern, J=12.8, 2.0 Hz, 1H), 3.80 (br dd, half of ABX pattern, J=12.8, 1.5 Hz, 1H), 2.79-2.91 (m, 2H), 2.16 (ddd, J=14.3, 7.5, 2.5 Hz, 1H), 1.64 (dddd, J=14.2, 10.7, 10.7, 1.7 Hz, 1H), 0.90-0.99 (m, 1H), 0.79 (d, J=6.5 Hz, 3H), 0.52-0.64 (m, 2H), 0.39-0.45 (m, 1H), 0.24-0.31 (m, 1H).

reactant | (3S,3aR,5R)-5-Cyclopropyl-3-methyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2C(=NO[C@H]2C)CO1 | C10H15NO2
reactant | rel-(3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2[C@@](NOC2)(CO1)C1=C(C=C(C=C1)F)F | C15H17F2NO2
product | (3S,3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)-3-methylhexahydro-1H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2[C@@](NO[C@H]2C)(CO1)C1=C(C=C(C=C1)F)F | C16H19F2NO2
